US06150373
A mixture of 100 mg (0.25 mmol) of 3-(2,6-dichlorophenyl)-1-ethyl-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one and 120 mg (0.5 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 35 minutes and then cooled. The residue was chromatographed on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated. The residue was evaporated with toluene and then dissolved in 50 ml of dichloromethane. The solution was washed with 50 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 30 mg (22%) of 3-(2,6-dichlorophenyl)-1-ethyl-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as an orange colored solid of melting point 85° C.

reactant | 3-(2,6-dichlorophenyl)-1-ethyl-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.25 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)CC)=O | C15H14Cl2N4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 0.5 mmol, 120 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-(2,6-dichlorophenyl)-1-ethyl-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 30 mg, 22% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)CC)=O | C26H30Cl2N6O2
